US04599357
To the mixture of 5.0 g of indoline-2-carboxylic acid hydrochloride and 50 ml of methylene chloride are added 7.9 g of triethylamine, and after 5 minutes 6.1 g of 3-benzoylthio-2-methylpropanoyl chloride during 3 minutes. After stirring the mixture at room temperature for 2 hours, it is extracted thrice with 50 ml of saturated aqueous sodium bicarbonate. The combined aqueous solutions are adjusted to pH=1 with 4N hydrochloric acid and reextracted thrice with 50 ml of methylene chloride. The combined extracts are dried and evaporated, to yield the 1-(3-benzoylthio-2-methylpropanoyl)-indoline-2-carboxylic acid.

reactant | indoline-2-carboxylic acid hydrochloride | 5.0 g | Cl.N1C(CC2=CC=CC=C12)C(=O)O
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | 3-benzoylthio-2-methylpropanoyl chloride | 6.1 g | C(C1=CC=CC=C1)(=O)SCC(C(=O)Cl)C | C11H11ClO2S
solvent | triethylamine | 7.9 g | C(C)N(CC)CC | C6H15N
product | 1-(3-benzoylthio-2-methylpropanoyl)-indoline-2-carboxylic acid | C(C1=CC=CC=C1)(=O)SCC(C(=O)N1C(CC2=CC=CC=C12)C(=O)O)C | C20H19NO4S
